US03958005
A mixture of 59 g of caprinaldehyde, 15 ml of methylene chloride and 52 g of sulfuryl chloride was stirred for 2 hours, refluxed for 1 hour and was then rectified to obtain 34.5 g of α-chlorocaprinaldehyde with a boiling point of 115°C at 12 mm Hg and a refractive index of nD27 = 1.4460. A mixture of 11.6 g of the said product, 10 g of ethyl γ-propargyl-β -ethoxy-crotonate and 42.2 ml of butyl lithium were reacted as in Step A of Example 2 to obtain 4.75 g of ethyl 3-oxo-8-hydroxy-9-chloro-6-heptadecynoate with a refractive index of nD22 = 1.4780.

reactant | caprinaldehyde | 59 g | C(CCCCCCCCC)=O | C10H20O
reactant | sulfuryl chloride | 52 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | α-chlorocaprinaldehyde | 34.5 g | ClC(C=O)CCCCCCCC | C10H19ClO
